US04985427
Methyl [1-(3-iodophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate
Methyl isocyanate (1.24 g) was added to a solution of methyl [1-(3-iodophenyl)hydrazino]acetate (3.0 g) in acetonitrile (50 ml) and the mixture was stirred under nitrogen for 2 h. The mixture was added to pH 6.5 phosphate solution (150 ml) and extracted with ethyl acetate (200 ml). The organic phase was washed with brine (100 ml) and water (100 ml), dried and evaporated to give a solid (3.0 g) which was crystallised from ethyl acetate to give the title compound (2.0 g), m.p. 150°.

reactant | Methyl isocyanate | 1.24 g | CN=C=O | C2H3NO
reactant | methyl [1-(3-iodophenyl)hydrazino]acetate | 3.0 g | IC=1C=C(C=CC1)N(N)CC(=O)OC | C9H11IN2O2
reactant | phosphate | 150 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Methyl [1-(3-iodophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate | 3.0 g | IC=1C=C(C=CC1)N(NC(=O)NC)CC(=O)OC | C11H14IN3O3
